US04579848
2-(3-Tolyl)-4-pyrimidinol
A 92.3 g portion of 3-methylbenzamidine, hydrochloride [J. B. Ekeley, et al., J. Am. Chem. Soc., 57, 381 (1935)] was stirred with 200 ml of 5N sodium hydroxide and 400 ml of chloroform for 1/2 hour. When solution was complete the chloroform layer was separated and the aqueous layer extracted twice with 50 ml portions of chloroform. The chloroform solutions were combined, dried over sodium sulfate and evaporated, giving 69.3 g of free benzamidine. This benzamidine was taken up in one liter of absolute ethanol, 71.6 g of ethyl formylacetate sodium salt was added and the mixture was refluxed for 3 days. After cooling, the ethanol was evaporated and the residue dissolved in one liter of water and filtered. The pH of the filtrate was adjusted to 6 with 1N hydrochloric acid and the solid was collected and dried, giving 59.1 g of the desired intermediate as a white solid, mp 148°-149.5° C.

reactant | benzamidine | C(C1=CC=CC=C1)(=N)N | C7H8N2
reactant | ethyl formylacetate sodium salt | 71.6 g | [Na].C(=O)CC(=O)OCC
reactant | ethanol | one liter | C(C)O | C2H6O
product | 2-(3-Tolyl)-4-pyrimidinol | 59.1 g | C1(=CC(=CC=C1)C1=NC=CC(=N1)O)C | C11H10N2O
